US08957215B2
(c) test-Butyl [5-(1,3-benzothiazol-2-yl)pyridin-2-yl]methylcarbamate
2-Chlorobenzothiazole (31 μL, 0.25 mmol) and tert-butyl [5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)pyridin-2-yl]methylcarbamate (80 mg, 0.25 mmol) were reacted according to the procedure used for the preparation of 5-(6-methoxy-1,3-benzothiazol-2-yl)pyrimidin-2-amine. After 1 h at 80° C., the mixture was concentrated under reduced pressure and the residue was partitioned between DCM and H2O. The organic phase was concentrated. Flash chromatography (Heptane/EtOAc gradient) gave the product (53 mg) as a white solid. MS m/z (M+H) 342.

reactant | 2-Chlorobenzothiazole | 0.25 mmol, 31 μL | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | tert-butyl [5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)pyridin-2-yl]methylcarbamate | 0.25 mmol, 80 mg | CC1(COB(OC1)C=1C=CC(=NC1)CNC(OC(C)(C)C)=O)C | C16H25BN2O4
reactant | 5-(6-methoxy-1,3-benzothiazol-2-yl)pyrimidin-2-amine | COC1=CC2=C(N=C(S2)C=2C=NC(=NC2)N)C=C1 | C12H10N4OS
product | Butyl [5-(1,3-benzothiazol-2-yl)pyridin-2-yl]methylcarbamate | 53 mg | S1C(=NC2=C1C=CC=C2)C=2C=CC(=NC2)CNC(OCCCC)=O | C18H19N3O2S
